US07173004B2
Preparation of P2 Isoquinoline Intermediates for Incorporation into Compounds of Formula I
To a solution of 3-methoxy cinnamic acid (11.04 g, 62 mmol) and triethylamine (12.52 g, 124 mmol) in acetone (80 mL) was added ethyl chloroformate (approximately 1.5 equivalents) dropwise at 0° C. After stirring at this temperature for 1 h, aqueous NaN3 (6.40 g, 100 mmol in 35 mL H2O; appropriate precautions must be taken when using sodium azide) was added dropwise and the reaction mixture was stirred for 16 h at the ambient temperature. Water (100 mL) was added to the mixture and the volatile was removed in vacuo. The resulting slurry was extracted with toluene (3×50 mL) and the combined organic layers were dried over MgSO4. This dried solution was added dropwise to a heated solution of diphenylmethane (50 mL) and tributylamine (30 mL) at 190° C. The toluene was distilled off as added. After complete addition, the reaction temperature was raised to 210° C. for 2 h. After cooling, the precipitated product was collected by filtration, washed with hexane (2×50 mL), and dried to yield the desired product as a white solid (5.53 g, 51%) (Nicolas Briet et al, Tetrahedron, 2002, 5761–5766).

reactant | 3-methoxy cinnamic acid | 62 mmol, 11.04 g | COC=1C=C(C=CC(=O)O)C=CC1 | C10H10O3
reactant | triethylamine | 124 mmol, 12.52 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | approximately 1.5 equivalents | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 100 mmol, 35 mL, 6.40 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 80 mL | CC(=O)C | C3H6O
solvent | Water | 100 mL | O | H2O
product | Isoquinoline | 5.53 g, 51% | C1=NC=CC2=CC=CC=C12 | C9H7N
